US06153608
(1) 4-Methyl-5-nitroisoquinoline
To 45 ml of concentrated sulfuric acid was added 12.75 g of 4-methylisoquinoline (produced according to Tetrahedron, 1982, 38, 3347) under ice-cooling, and a solution of 9.02 g of potassium nitrate in 34 ml of concentrated sulfuric acid was added dropwise at a temperature not exceeding 0° C. After 30 minutes of stirring, the reaction mixture was poured in iced water containing aqueous ammonia and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to provide 12.0 g of light-yellow crystals.

reactant | 4-methylisoquinoline | 12.75 g | CC1=CN=CC2=CC=CC=C12 | C10H9N
reactant | potassium nitrate | 9.02 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 34 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | sulfuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Methyl-5-nitroisoquinoline | 12.0 g | CC1=CN=CC2=CC=CC(=C12)[N+](=O)[O-] | C10H8N2O2
